US08628682B2
A 50 mL flask equipped with a stir-bar and a nitrogen bubbler was charged with concentrated sulfuric acid (14.55 g) and 4-(1,1,2,2-tetrafluoroethoxy)benzene (4.9 g) at room temperature. The reaction mixture was stirred at room temperature for 17 h. A sodium hydroxide solution (12.25 g, in 40.02 g water) was slowly added to the reaction mixture while the reaction mixture was cooled with an ice-water bath. The resulting solid was filtered off. The filtrate was neutralized with concentrated hydrochloric acid (˜3 mL) and used to wash the solid. This wash solution was neutralized with sodium bicarbonate to pH˜7, and used to wash the solid again. The solid was extracted with refluxing ethanol. The ethanol solution was dried to give sodium 4-(1,1,2,2-tetrafluoroethoxy)benzenesulfonate (4FEBSNa) 4.4 g (yield 59%): 1H NMR (D2O) 6.34 (tt, 52, 3 Hz, 1H), 7.45 (d, J=9 Hz, 2H), 7.88 (m, 2H) ppm; 19F NMR (D2O) −88.7 (m, 2F), −138.0 (dt, J=52, 5 Hz, 2F) ppm.

reactant | sulfuric acid | 14.55 g | S(O)(O)(=O)=O | H2O4S
reactant | 4-(1,1,2,2-tetrafluoroethoxy)benzene | 4.9 g | FC(C(F)F)(OC1=CC=CC=C1)F | C8H6F4O
reactant | sodium hydroxide | 12.25 g | [OH-].[Na+]
product | sodium 4-(1,1,2,2-tetrafluoroethoxy)benzenesulfonate | 4.4 g, yield 59% | FC(C(F)F)(OC1=CC=C(C=C1)S(=O)(=O)[O-])F.[Na+] | InChI=1S/C8H6F4O4S.Na/c9-7(10)8(11,12)16-5-1-3-6(4-2-5)17(13,14)15;/h1-4,7H,(H,13,14,15);/q;+1/p-1
